US07759385B2
Palladium on carbon (5%, 60 mg) was added to a solution of 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[3-(1H-indol-3-yl)piperidine-1-yl]-ethanone (220 mg, 0.498 mmole) in abs. methanol (30 ml). The reaction mixture was hydrogenated for 24 hours at RT under a pressure of 3 bar. The catalyst was separated using Celite and the filtrate was concentrated by evaporation. After chromatographic separation of the residue (210 mg) on silica gel (20 g) with EE/methanol (2:1), 2-(4-dimethylamino-4-phenylcyclohexyl)-1-[3-(1H-indol-3-yl)piperidine-1-yl]-ethanone was isolated as a colourless oil in a yield of 30% (66 mg). The compound was obtained as a diastereoisomer mixture.

reactant | 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[3-(1H-indol-3-yl)piperidine-1-yl]-ethanone | 0.498 mmole, 220 mg | CN(C1(CCC(CC1)=CC(=O)N1CC(CCC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C29H35N3O
catalyst | Palladium on carbon | 60 mg | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 2-(4-dimethylamino-4-phenylcyclohexyl)-1-[3-(1H-indol-3-yl)piperidine-1-yl]-ethanone | yield of 30% | CN(C1(CCC(CC1)CC(=O)N1CC(CCC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C29H37N3O
